US06821585B2
To an aqueous solution comprising 48 g of a 50% hydroxylamine aqueous solution and 50 ml of deionized water were successively added 30 g of triethylamine and 400 ml of ethyl acetate under cooling, and then, 94 g of phenyl chloroformate was added dropwise to the mixture at 0° C. or lower over 1.5 hours. Thereafter, the mixture was stirred at room temperature for 1.5 hours. After the reaction, an organic layer was collected by separation and washed with a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was removed. Cyclohexane was added to the residue to crystallize the reaction product, and the crystal was washed with chloroform and dried to obtain white colored N-phenoxycarbonyl hydroxylamine which is an intermediate. Yield: 31 g, Melting point: 108° C.

reactant | hydroxylamine | NO | H3NO
reactant | water | 50 ml | O | H2O
reactant | triethylamine | 30 g | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 94 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | N-phenoxycarbonyl hydroxylamine | O(C1=CC=CC=C1)C(=O)NO | C7H7NO3
